US09359345B2
A solution of crude {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-carbamic acid pentafluorophenyl ester (˜50 μmol) in tetrahydrofuran (1 mL) was cooled to 0° C. under an atmosphere of argon and isoindoline (12.6 mg, 106 μmol) and diisopropylethylamine (20 μL, 115 μmol) were added. The reaction mixture was stirred at 0° C. for 1 hour then warmed to ambient temperature and stirred for an additional hour. The reaction was quenched by the addition of saturated aqueous ammonium chloride solution (2 mL), poured into water (10 mL) and extracted with ethyl acetate (4×5 mL). The combined organic extracts were washed with brine (2×5 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by reverse phase chromatography using a 12 g C-18 column gradient eluted from 10% acetonitrile in water up to 100% acetonitrile. The product containing fractions were combined and concentrated in vacuo to a yellow solid. The yellow solid was taken up in dichloromethane, dried over sodium sulfate, filtered and concentrated in vacuo to give 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide as a yellow viscous oil (11.3 mg, 50%).

reactant | {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-carbamic acid pentafluorophenyl ester | ˜50 μmol | FC1=C(C(=C(C(=C1OC(N[C@H]1CN(CCC1)C=1SC(=C(N1)C#N)NC1=NC=CC=C1)=O)F)F)F)F | C21H15F5N6O2S
reactant | isoindoline | 106 μmol, 12.6 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | diisopropylethylamine | 115 μmol, 20 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1,3-dihydro-isoindole-2-carboxylic acid {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-amide | 11.3 mg, 50% | C(#N)C=1N=C(SC1NC1=NC=CC=C1)N1C[C@@H](CCC1)NC(=O)N1CC2=CC=CC=C2C1 | C23H23N7OS
